US08378104B2
Step A: 3-bromothieno[2,3-d]pyridazine
A solution of thieno[2,3-d]pyridazine (468.0 mg, 3.437 mmol) and sodium acetate (879.2 mg, 10.50 mmol) in acetic acid (14 mL) was charged with bromine (0.55 mL, 11 mmol) and then irradiated under microwave heating at 90° C. for 3 h. The reaction mixture was concentrated in vacuo. Purification by ISCO chromatography (1 to 15% methanol:dichloromethane) afforded 210.6 mg (27%) of the title compound as a pink solid. 1H NMR (400 MHz, DMSO-d6): δ 9.96 (d, J=1.52 Hz, 1H), 9.53 (d, J=1.52 Hz, 1H), 8.51 (s, 1H); MS (ESI): 214.97, 216.92 [M+H]+; HPLC tR=2.68 min.

reactant | thieno[2,3-d]pyridazine | 3.437 mmol, 468.0 mg | S1C=CC=2C1=CN=NC2 | C6H4N2S
reactant | sodium acetate | 10.50 mmol, 879.2 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 11 mmol, 0.55 mL | BrBr | Br2
solvent | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
product | 3-bromothieno[2,3-d]pyridazine | 210.6 mg, 27% | BrC1=CSC2=CN=NC=C21 | C6H3BrN2S
